US04616020
(a) 1,3-Dimethyl-7-(5,6-epoxyhexyl)xanthine
A solution of 31 g of 1,3-dimethyl-7-(5-hexenyl)xanthine and 34.9 g of m-chloroperbenzoic acid (70% pure) in 700 ml of chloroform was stirred at room temperature for 48 hours. The mixture was shaken with 10% strength sodium dithionite solution until the test with starch-iodide paper was negative, and washed with sodium bicarbonate solution and then with water to neutrality, dried and evaporated under reduced pressure.

reactant | 1,3-dimethyl-7-(5-hexenyl)xanthine | 31 g | CN1C(=O)N(C=2N=CN(C2C1=O)CCCCC=C)C | C13H18N4O2
reactant | m-chloroperbenzoic acid | 34.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,3-Dimethyl-7-(5,6-epoxyhexyl)xanthine | CN1C(=O)N(C=2N=CN(C2C1=O)CCCCC1CO1)C | C13H18N4O3
